US07960552B2
To a solution of 60 mg (0.10 mmol) of dimethyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2,4-quinolinedicarboxylate in a mixture of 1 mL THF, 3 mL EtOH, and 1 mL H2O was added 40 mg (0.99 mmol) of NaOH. The mixture was stirred at 60° C. for 16 hr. H2O (1.5 mL) was added to dissolve some solids then the solution was concentrated to ⅓ volume and added dropwise to 10 mL of 0.5 N HCl (aq). After sitting for 5 min, the resulting solids were collected by suction filtration, washed with H2O and dried to yield 36 mg (63%) of 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2,4-quinolinedicarboxylic acid as an orange solid. 1H NMR (400 MHz, DMSO-d6): δ 8.82 (d, J=9 Hz, 1H), 8.41 (s, 1H), 8.38 (s, 1H), 8.14 (dd, JA=2 Hz, JB=9 Hz, 1H), 7.79 (d, J=9 Hz, 2H), 7.61 (d, J=8 Hz, 2H), 7.55-7.51 (m, 1H), 6.94 (d, J=9 Hz, 2H), 4.88 (s, 2H), 3.45 (septet, J=7 Hz, 1H), 1.34 (d, J=7, 6H). ESI-LCMS m/z 578 (M+H)+.

reactant | dimethyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2,4-quinolinedicarboxylate | 0.10 mmol, 60 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C(=CC(=NC2=C1)C(=O)OC)C(=O)OC)C(C)C | C32H26Cl2N2O6
reactant | EtOH | 3 mL | CCO | C2H6O
reactant | H2O | 1 mL | O | H2O
reactant | NaOH | 0.99 mmol, 40 mg | [OH-].[Na+]
reactant | H2O | 1.5 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2,4-quinolinedicarboxylic acid | 36 mg, 63% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C(=CC(=NC2=C1)C(=O)O)C(=O)O)C(C)C | C30H22Cl2N2O6
